US04456604
Step C: Preparation of 1-(3-fluoro-2-pyridinyl)piperazine dihydrochloride
A solution of 3-fluoro-2-piperazinylpyridine N-oxide (2 mmol) in 10 ml of glacial acetic acid is warmed to about 85° C. saturated with anhydrous hydrogen chloride gas and treated with a fine stream of sulfur dioxide for 1 hour. The acetic acid is removed under reduced pressure and the residue is crystallized from an ethanol-ethyl acetate mixture to give the title compound.

reactant | 3-fluoro-2-piperazinylpyridine N-oxide | 2 mmol | FC=1C(=[N+](C=CC1)[O-])N1CCNCC1 | C9H12FN3O
reactant | hydrogen chloride | Cl | ClH
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-(3-fluoro-2-pyridinyl)piperazine dihydrochloride | Cl.Cl.FC=1C(=NC=CC1)N1CCNCC1 | InChI=1S/C9H12FN3.2ClH/c10-8-2-1-3-12-9(8)13-6-4-11-5-7-13;;/h1-3,11H,4-7H2;2*1H
